US04075199
To a solution of 0.78 grams (.01 moles) of sodium peroxide in 30 ml. of methanol, cooled to 10° C in a 50 ml. erlenmeyer flask immersed in a cold water bath was added 4.3 grams (.0213 moles) of 1-t-butylazo-1-chlorocyclo-hexane dropwise and with rapid stirring holding the temperature at 10°-15° C. After the addition was complete, the reaction was stirred for 1 hour at 5° C. It was then poured in 250 ml. of ice cold water and the product extracted with pentane. The pentane layer was separated, washed with saturated (NH4)2SO4, water, saturated NaHCO3, water, dried, filtered and the pentane evaporated under reduced pressure to give 3.67 grams (85% yield) of crude di[1-(t-butylazo)cyclohexyl] peroxide. The infrared spectrum indicated the product was contaminated to a small extent by 1-t-butylazo-1-methoxy-cyclohexane which resulted from the chloro compound reacting to a small extent with the methanol solvent.

reactant | sodium peroxide | .01 moles, 0.78 grams | [O-][O-].[Na+].[Na+]
reactant | 1-t-butylazo-1-chlorocyclo-hexane | .0213 moles, 4.3 grams | C(C)(C)(C)N=NC1(CCCCC1)Cl | C10H19ClN2
solvent | methanol | CO | CH4O
product | di[1-(t-butylazo)cyclohexyl] peroxide | 3.67 grams, 85% yield | C(C)(C)(C)N=NC1(CCCCC1)OOC1(CCCCC1)N=NC(C)(C)C | C20H38N4O2
